US05028606
A mixture of 11.1 parts of intermediate 26, namely 4-amino-α-(2-fluorophenyl)-3-nitrobenzenemethanol, 13.7 parts of 1,1'-carbonylbis[1H-imidazole] and 90 parts of N,N-dimethylformamide was stirred for 12 hours at room temperature. After evaporation to dry, the residue was taken up in dichloromethane. The organic phase was washed with 50 parts of water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated, yielding 6.5 parts (49.5%) of 4-[(2-fluorophenyl)(1H-imidazol-1-yl)methyl]-2-nitrobenzenamine; mp. 176° C. (interm. 27).

reactant | 4-amino-α-(2-fluorophenyl)-3-nitrobenzenemethanol | NC1=C(C=C(C=C1)C(O)C1=C(C=CC=C1)F)[N+](=O)[O-] | C13H11FN2O3
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[(2-fluorophenyl)(1H-imidazol-1-yl)methyl]-2-nitrobenzenamine | 49.5% | FC1=C(C=CC=C1)C(C1=CC(=C(C=C1)N)[N+](=O)[O-])N1C=NC=C1 | C16H13FN4O2
